US08748418B2
Prepared in an analogous manner as described for intermediate A22A from (R)-5-(5-amino-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepane-3-thione (intermediate A19B) (102 mg, 320 μmol) and 8-oxo-5,6,7,8-tetrahydroquinoline-3-carbonitrile (66.2 mg, 384 μmol). The 8-(3-((R)-6,6-difluoro-5,7,7-trimethyl-3-thioxo-1,4-oxazepan-5-yl)-4-fluorophenylamino)-5,6,7,8-tetrahydroquinoline-3-carbonitrile (96 mg, 63.1%) was obtained as a white foam. MS (ISN): m/z=473.1 [(M−H)−].

reactant | (R)-5-(5-amino-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepane-3-thione | 320 μmol, 102 mg | NC=1C=CC(=C(C1)[C@]1(NC(COC(C1(F)F)(C)C)=S)C)F | C14H17F3N2OS
reactant | 8-oxo-5,6,7,8-tetrahydroquinoline-3-carbonitrile | 384 μmol, 66.2 mg | O=C1CCCC=2C=C(C=NC12)C#N | C10H8N2O
product | 8-(3-((R)-6,6-difluoro-5,7,7-trimethyl-3-thioxo-1,4-oxazepan-5-yl)-4-fluorophenylamino)-5,6,7,8-tetrahydroquinoline-3-carbonitrile | 96 mg, 63.1% | FC1([C@@](NC(COC1(C)C)=S)(C)C=1C=C(C=CC1F)NC1CCCC=2C=C(C=NC12)C#N)F | C24H25F3N4OS
